US07544699B2
3-Biphenyl-4-yl-(2S)-{[6-(4-tert-butyl-phenoxy)-3-ethylsulfanyl-quinoxaline-2-carbonyl]-amino}-propionic acid
3-Biphenyl-4-yl-(2S)-{[6-(4-tert-butyl-phenoxy)-3-ethylsulfanyl-quinoxaline-2-carbonyl]-amino}-propionic acid methyl ester (30 mg, 0.048 mmol) was hydrolyzed as described in general procedure C. Column chromatography over silica using DCM and 95:5 DCM-methanol as eluants gave the title compound (22 mg).

reactant | 3-Biphenyl-4-yl-(2S)-{[6-(4-tert-butyl-phenoxy)-3-ethylsulfanyl-quinoxaline-2-carbonyl]-amino}-propionic acid methyl ester | 0.048 mmol, 30 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=NC2=CC=C(C=C2N=C1SCC)OC1=CC=C(C=C1)C(C)(C)C)=O | C37H37N3O4S
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM methanol | C(Cl)Cl.CO
product | 3-Biphenyl-4-yl-(2S)-{[6-(4-tert-butyl-phenoxy)-3-ethylsulfanyl-quinoxaline-2-carbonyl]-amino}-propionic acid | 22 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C1=NC2=CC=C(C=C2N=C1SCC)OC1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1 | C36H35N3O4S
